US07923450B2
a) 6-Bromo-2-(3-methoxy-phenyl)-2-propyl-cyclohexanone
2-(3-Methoxy-phenyl)-2-propyl-cyclohexanone (100 mg, 0.41 mmol) was dissolved in chloroform (1 mL). To this solution bromine (68.1 mg, 0.43 mmol) in chloroform (0.5 mL) was added drop wise at −11° C. The reaction was stirred at 5° C. for 1½ hours, at room temperature for 1 hour and at 50° C. for 1 hour. The solvent was removed under reduced pressure to yield the crude title compound (126 mg) which was used directly in the next step without further purification.

reactant | 2-(3-Methoxy-phenyl)-2-propyl-cyclohexanone | 0.41 mmol, 100 mg | COC=1C=C(C=CC1)C1(C(CCCC1)=O)CCC | C16H22O2
reactant | bromine | 0.43 mmol, 68.1 mg | BrBr | Br2
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-Bromo-2-(3-methoxy-phenyl)-2-propyl-cyclohexanone | 126 mg | BrC1CCCC(C1=O)(CCC)C1=CC(=CC=C1)OC | C16H21BrO2
